US05015661
rac-2-(3,4-Dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)-7-methoxybenzofuran-5-methanol.
A mixture of 0.2 g of rac-2-(3,4-dihydro 6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl) -7-methoxy-5-benzofurancarboxaldehyde and 20 mg of sodium borohyride in 5 ml of ethanol was stirred under nitrogen for 30 minutes. It was partitioned between methylene chloride and saturated aqueous sodium bicarbonate solution. The organic layer was separated. dried over sodium sulfate and evaporated. Crystallization from ether/hexane yielded colorless crystals with m.p. 122°-125°.

reactant | rac-2-(3,4-dihydro 6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl) -7-methoxy-5-benzofurancarboxaldehyde | 0.2 g | OC=1C(=C(C2=C(CCC(O2)(C)C=2OC3=C(C2)C=C(C=C3OC)C=O)C1C)C)C | C23H24O5
reactant | sodium | 20 mg | [Na] | Na
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | rac-2-(3,4-Dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)-7-methoxybenzofuran-5-methanol | OC=1C(=C(C2=C(CCC(O2)(C)C=2OC3=C(C2)C=C(C=C3OC)CO)C1C)C)C | C23H26O5
